US06239131B1
Preparation of N-phenyl-N-(2-cyanoethyl)-2-amino-4-methoxyaniline
N-Phenyl-N-(2-cyanoethyl)-2-nitro-4-methoxyaniline (39.5 g) was dissolved in tetrahydrofuran (200 ml), 10% palladium carbon (4.0 g) was added, the mixture was stirred for 9 hours under hydrogen atmosphere. Palladium carbon was removed by filtration, the filtrate was concentrated under reduced pressure, to thereby obtain 35.6 g of the titled compound (Yield: 100%).

reactant | N-Phenyl-N-(2-cyanoethyl)-2-nitro-4-methoxyaniline | 39.5 g | C1(=CC=CC=C1)N(C1=C(C=C(C=C1)OC)[N+](=O)[O-])CCC#N | C16H15N3O3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 4.0 g | [C].[Pd]
product | N-phenyl-N-(2-cyanoethyl)-2-amino-4-methoxyaniline | 35.6 g, Yield: 100% | C1(=CC=CC=C1)N(C1=C(C=C(C=C1)OC)N)CCC#N | C16H17N3O
